US09402841B2
Step C: (S)-tert-butyl 3-((8-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate
To a mixture of (S)-tert-butyl 3-((8-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate (500 mg, 1.12 mmol) in dioxane (10 mL) was added CDI (362 mg, 2.24 mmol) and the resulting mixture was heated to reflux for 2 hours. The reaction mixture was concentrated in vacuo to give crude product, which was purified by preparative HPLC to give the title compound (220 mg, 47.4%). ESI-MS m/z [M+H-Boc]+ 316.

reactant | (S)-tert-butyl 3-((8-fluoro-3-(hydrazinyl(imino)methyl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 1.12 mmol, 500 mg | FC=1C=CC=C2C=C(N=C(C12)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C(=N)NN | C19H24FN5O3
reactant | CDI | 2.24 mmol, 362 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | (S)-tert-butyl 3-((8-fluoro-3-(5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl)isoquinolin-1-yl)oxy)pyrrolidine-1-carboxylate | 220 mg, 47.4% | FC=1C=CC=C2C=C(N=C(C12)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C1=NNC(N1)=O | C20H22FN5O4
